US07842685B2
A sealable tube was charged with Cu(I) iodide (7.32 mg, 0.0384 mmol), cesium fluoride (0.117 g, 0.769 mmol), 1-(2-fluorophenyl)vinyl trifluoromethane-sulfonate (0.208 g, 0.769 mmol), tetrakis(triphenylphosphine) palladium (0) (0.0222 g, 0.0192 mmol), methyl 1-((3-fluoro-4-(5-(trimethylstannyl)-thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate (0.200 g, 0.384 mmol), flushed with argon, diluted with 0.8 mL DMF, sealed, and heated to 45° C. overnight. The reaction mixture was partitioned between EA, water, saturated sodium bicarbonate. The organic layer was washed with water, brine, dried over sodium sulfate, filtered, and concentrated in vacuo. Purification by silica gel chromatography, 12 g, 0-100% EA/hexanes provided methyl 1-((3-fluoro-4-(5-(1-(2-fluorophenyl)vinyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate as an oil which slowly solidified to a tan solid. MS (ESI) m/z: calculated: 477.1; Observed: 478.1 (M++1).

reactant | cesium fluoride | 0.769 mmol, 0.117 g | [F-].[Cs+]
reactant | 1-(2-fluorophenyl)vinyl trifluoromethane-sulfonate | 0.769 mmol, 0.208 g | FC(S(=O)(=O)OC(=C)C1=C(C=CC=C1)F)(F)F | C9H6F4O3S
reactant | methyl 1-((3-fluoro-4-(5-(trimethylstannyl)-thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate | 0.384 mmol, 0.200 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)[Sn](C)(C)C)CN1CC(C1)C(=O)OC
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.0192 mmol, 0.0222 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 1-((3-fluoro-4-(5-(1-(2-fluorophenyl)vinyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C(=C)C1=C(C=CC=C1)F)CN1CC(C1)C(=O)OC | C26H21F2N3O2S
